US07868008B2
Tert-butyl 4-fluorocyclohexanecarboxylate
To a solution of tert-butyl 4-hydroxycyclohexanecarboxylate (1500 mg, 7.45 mmol) in dichloromethane (anhydrous, 20 ml), DAST was (1571 mg, 22.4 mmol) added at 0° C. The resulting mixture was stirred at 0° C. for 3 hours. The mixture was diluted with dichloromethane, quenched with sodium bicarbonate. The organic layer was separated, the aqueous phase was extracted with EtOAc. The combined organic layer were washed with water, brine, dried with androus sodium sulphate. The product was purified (flash chromatography, 10 to 20% EtOAc/hexanes) and obtained as a 210 mg of yellow oil (25%). 1H NMR (300 MHz, CDCl3): δ 5.60-5.80 (m, 1H), 4.99-5.09 (m, 2H), 4.73 (d, 2H), 3.34 (br, 2H), 2.29-2.32 (m, 2H), 1.44-1.46 (m, 9H).

reactant | tert-butyl 4-hydroxycyclohexanecarboxylate | 7.45 mmol, 1500 mg | OC1CCC(CC1)C(=O)OC(C)(C)C | C11H20O3
reactant | DAST | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Tert-butyl 4-fluorocyclohexanecarboxylate | 210 mg, 25% | FC1CCC(CC1)C(=O)OC(C)(C)C | C11H19FO2
